US04016166
To a solution of 2.9 g of 2-(m-nitroanilino)-N-ethylbenzamide and 25 ml of tetrahydrofuran was added 1.0 g of 50 % sodium hydride, and stirring was performed for 30 minutes at room temperature. To this was added dropwise under cooling 5.4 g of ethyl chlorocarbonate, and the mixture was allowed to stand for one hour at room temperature and then refluxed for 10 hours. After the reaction was complete, the solvent was evaporated from the reaction mixture under reduced pressure, and to the residue obtained was added water to prepicpitate a crude product. This product was recrystallized from methanol to give 2.5 g of 1-(m-nitrophenyl)-3-ethylquinazoline-2,4(1H, 3H)-dione as colorless prisms, melting at 193°-194° C.

reactant | 2-(m-nitroanilino)-N-ethylbenzamide | 2.9 g | [N+](=O)([O-])C=1C=C(NC2=C(C(=O)NCC)C=CC=C2)C=CC1 | C15H15N3O3
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | ethyl chlorocarbonate | 5.4 g | C(OCC)(=O)Cl | C3H5ClO2
solvent | water | O | H2O
product | 1-(m-nitrophenyl)-3-ethylquinazoline-2,4(1H, 3H)-dione | 2.5 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)CC)=O | C16H13N3O4
